US05739153
8-t-Butyl-2-chloromethyl-1,4-dioxaspiro[4.5]decane
97.0 g (0.597 mol) of 4-t-butylcyclohexanone and 134.7 g (1.184 mol) of 3-chloro-1,2-propanediol are dissolved in 1100 ml of toluene in the presence of 11.5 g (0.060 mol) of PTSA. The mixture is brought to reflux for 6 hours while removing the water formed using a Dean-Stark trap. The reaction mixture is brought to room temperature and washed twice with 1500 ml of an aqueous solution containing 5% of NaHCO3. The organic phase is dried over MgSO4 and concentrated under vacuum. The residual oil is used directly in the following step (yield: 99%; NMR analysis).

reactant | 4-t-butylcyclohexanone | 0.597 mol, 97.0 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | 3-chloro-1,2-propanediol | 1.184 mol, 134.7 g | ClCC(CO)O | C3H7ClO2
reactant | PTSA | 0.060 mol, 11.5 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 1100 ml | C1(=CC=CC=C1)C | C7H8
product | 8-t-Butyl-2-chloromethyl-1,4-dioxaspiro[4.5]decane | yield: 99% | C(C)(C)(C)C1CCC2(OCC(O2)CCl)CC1 | C13H23ClO2
